US05142069
5-chloro-2-[(2-methyl-2-propenyl)oxy]benzoic acid 2-methyl-2-propenyl ester
When this reaction was repeated employing 2.77 Kg of 5-chloro-2-hydroxybenzoic acid, 7.6 liters of dimethylformamide, 5.55 Kg of potassium carbonate, and 3.96 liters of methallyl chloride, the cooled reaction mixture was filtered and divided into two portions. Each portion was poured separately into a mixture of 2.8 liters of hexane, 1.4 liters of ethyl acetate and 7 liters of water. The layers were separated and the aqueous layer in each case extracted again with a mixture of 1.4 liters of hexane and 0.7 liters of ethyl acetate. The organic fractions were combined and washed with 4.1 liters of water followed by a sodium chloride solution of 800 grams of sodium chloride in 4.1 liters of water. The organic extracts were combined, dried over magnesium sulfate, filtered and concentrated in vacuo to provide 4.21 Kg of the desired intermediate.

reactant | 5-chloro-2-hydroxybenzoic acid | 2.77 Kg | ClC=1C=CC(=C(C(=O)O)C1)O | C7H5ClO3
reactant | potassium carbonate | 5.55 Kg | C([O-])([O-])=O.[K+].[K+]
reactant | methallyl chloride | 3.96 liters | C(C(C)=C)Cl | C4H7Cl
solvent | dimethylformamide | 7.6 liters | CN(C=O)C | C3H7NO
product | 5-chloro-2-[(2-methyl-2-propenyl)oxy]benzoic acid 2-methyl-2-propenyl ester | 4.21 Kg | CC(COC(C1=C(C=CC(=C1)Cl)OCC(=C)C)=O)=C | C15H17ClO3
